US04319913
Under a static nitrogen atmosphere at 0° C., a solution of n-butyllithium (8 g, 0.125 mol) in hexane was added to a solution of tetramethylethylenediamine (14.3 g, 0.123 mol) in 30 ml. of anhydrous cyclohexane with constant stirring. While maintaining the temperature at 0° C., a solution of N-ethylbenzylamine (8.1 g, 0.06 mol) in 60 ml. of anhydrous cyclohexane was added to the reaction mixture to produce a suspension containing a dilithio compound. This suspension was stirred for 3 hours at 26° C. and then cooled to -71° C. using a solid carbon dioxide-acetone bath. A solution of phenylphosphonic dichloride (12.5 g, 0.064 mol) in 30 ml. of anhydrous cyclohexane was rapidly added to the suspension causing the temperature of the reaction to increase to -20° C. When the reaction temperature began to decrease, the solid carbon dioxide-acetone bath was removed and the reaction mixture was stirred for 2 hours. The reaction mixture was cooled to 0° C. and then quenched with the rapid addition of 12 ml. of acetic acid. After stirring for 10 minutes, the cyclohexane was removed on a rotary evaporator, and the resulting residue was partitioned between methylene chloride and water. The layers were separated and the methylene chloride layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo to yield an orange oil. This oil was distilled at 170° C. and 0.2 torr, yielding a yellow oil which was then slurried in diethyl ether to yield a white solid. The white solid was purified on a silica gel column using ethyl acetate as the eluant. Fractions containing the benzazaphosphole were combined and concentrated in vacuo to produce a crude product. The crude product was slurried in ether to yield 1-phenyl-2-ethyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide as a crystalline precipitate. A second crop was obtained from the ether filtrate and the combined product yield was recrystallized from methylcyclohexane to yield 1-phenyl-2-ethyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.3 g, 8% yield) as white crystals having a melting point of 94°-95° C. and the following analysis:

reactant | n-butyllithium | 0.125 mol, 8 g | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.123 mol, 14.3 g | CN(CCN(C)C)C | C6H16N2
reactant | N-ethylbenzylamine | 0.06 mol, 8.1 g | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | phenylphosphonic dichloride | 0.064 mol, 12.5 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-phenyl-2-ethyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | C1(=CC=CC=C1)P1(N(CC2=C1C=CC=C2)CC)=O | C15H16NOP
